US07842832B2
3.a Ethyl (2Z)-3-amino-2-cyano-4-ethyl-2-hexenoate
At 10° C., 52 g (0.23 mol) of ethyl 2-cyano-3-methoxy-4-ethyl-2-hexenoate were initially charged in THF, and 20 g (0.3 mol) of 25% strength ammonia solution were added. After 2 h of stirring at 25° C., the solution was concentrated, the residue was taken up in n-hexane/diisopropyl ether (1:1) and the precipitate was filtered off with suction.

reactant | ethyl 2-cyano-3-methoxy-4-ethyl-2-hexenoate | 0.23 mol, 52 g | C(#N)C(C(=O)OCC)=C(C(CC)CC)OC | C12H19NO3
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl (2Z)-3-amino-2-cyano-4-ethyl-2-hexenoate | N\C(=C(/C(=O)OCC)\C#N)\C(CC)CC | C11H18N2O2
